US05051423
N-[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]propionamide
To 25 g (0.25 mol) of 2-ethyl-4,5-dihydrooxazole add 10.0 g (62 mmol) of 4-(1H-imidazol-1-yl)phenol. Reflux the reaction mixture. Monitor the progress of the reaction by thin-layer chromatography on silica gel (9:1, CH2Cl2 :MeOH). Upon completion of the reaction remove the excess starting material by distillation, add ethyl acetate, and wash the solution with 2 N NaOH. Dry the organic layer over anhydrous Na2SO4. Remove the drying agent by filtration and remove the solvent in vacuo. Recrystallization from ethyl acetate-hexane affords the title compound.

reactant | 2-ethyl-4,5-dihydrooxazole | 0.25 mol, 25 g | C(C)C=1OCCN1 | C5H9NO
reactant | 4-(1H-imidazol-1-yl)phenol | 62 mmol, 10.0 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
product | N-[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]propionamide | N1(C=NC=C1)C1=CC=C(OCCNC(CC)=O)C=C1 | C14H17N3O2
